US06177440B1
40% Methanolic Triton B (1.53 mL, 3.4 mM) was slowly added dropwise to a solution of 5-carbomethoxy-1,2-dihydro-9H-carbazol-4(3H)-one (554.6 mg, 2.28 mM) in 5 mL of DMF at 25° C. After 5 minutes, 3-phenoxybenzyl chloride (748.0 mg, 3.42 mM) was added and the resultant mixture stirred at room temperature for 24 hours. The mixture was diluted with ethyl acetate, washed three times with 1N HCl, three times with H2O, once with saturated brine, dried over anhydrous magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography on silica gel (elution with gradient methylene chloride/ethyl acetate) to afford 563.6 mg (58%) of 9-[(3-phenoxyphenyl)methyl]-5-carbomethoxy-1,2-dihydrocarbazol-4(3H)-one as a thick yellow oil. 1H NMR (DMSO-d6) δ 7.7 (dd, 1H, J=1 and 8 Hz), 7.4-7.2 (m, 6H), 7.1 (t, 1H, J=8 Hz), 6.95 (m, 2H), 6.8-6.7 (m, 2H), 5.55 (s, 2H), 3.75 (s, 3H), 3.0 (t, 2H, J=6 Hz), 2.45 (t, 2H, J=6 Hz), and 2.1 (m, 2H). IR (CHCl3, cm−1) 3050, 2950, 1725, 1653, 1585, 1487, 1465, 1288, 1252, and 1119. MS (ES) m/e 426.

reactant | 5-carbomethoxy-1,2-dihydro-9H-carbazol-4(3H)-one | 2.28 mM, 554.6 mg | C(=O)(OC)C1=C2C=3C(CCCC3NC2=CC=C1)=O | C14H13NO3
reactant | 3-phenoxybenzyl chloride | 3.42 mM, 748.0 mg | O(C1=CC=CC=C1)C=1C=C(CCl)C=CC1 | C13H11ClO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-[(3-phenoxyphenyl)methyl]-5-carbomethoxy-1,2-dihydrocarbazol-4(3H)-one | 563.6 mg, 58% | O(C1=CC=CC=C1)C=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(CCCC12)=O)C(=O)OC | C27H23NO4
